US07531547B2
1,4-Diiodo-2,5-dimethoxy-benzene (3.65 g, 9.36 mmol) was added to 100 mL of dichloromethane and stirred under nitrogen at ice bath temperature. Boron tribromide (10.3 mL, 10.3 mmol) was added dropwise, and the reaction mixture was stirred at ice bath temperature for 20 hours. The reaction was quenched by dropwise addition of methanol, and the reaction mixture was poured into water and extracted into dichloromethane. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give 2.86 g of 2,5-Diiodo-4-methoxy-phenol, MS (M+H)=377.

reactant | 1,4-Diiodo-2,5-dimethoxy-benzene | 9.36 mmol, 3.65 g | IC1=C(C=C(C(=C1)OC)I)OC | C8H8I2O2
reactant | Boron tribromide | 10.3 mmol, 10.3 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,5-Diiodo-4-methoxy-phenol | 2.86 g | IC1=C(C=C(C(=C1)OC)I)O | C7H6I2O2
